US04460600
Following the procedure of Example 3, substituting trans-(±)-3,4-difluoro-N-methyl-N-[6-oxo-2-(1-azetidinyl)cyclohexyl]benzeneacetamide for the trans-(±)-3,4-dichloro-N-methyl-N-[6-oxo-2-(1-pyrrolidinyl)cyclohexyl]benzeneacetamide in 50 ml of dry ethanol instead of methanol and 5.0 ml of triethylorthoformate instead of trimethylorthoformate, there is formed as product trans-(±)-3,4-difluoro-N-methyl-N-[6,6-diethoxy-2-(1-azetidinyl)cyclohexyl]benzeneacetamide, which is converted to a hydrochloride salt.

reactant | trans-(±)-3,4-difluoro-N-methyl-N-[6-oxo-2-(1-azetidinyl)cyclohexyl]benzeneacetamide | FC=1C=C(C=CC1F)CC(=O)N([C@H]1[C@@H](CCCC1=O)N1CCC1)C | C18H22F2N2O2
reactant | trans-(±)-3,4-dichloro-N-methyl-N-[6-oxo-2-(1-pyrrolidinyl)cyclohexyl]benzeneacetamide | ClC=1C=C(C=CC1Cl)CC(=O)N([C@H]1[C@@H](CCCC1=O)N1CCCC1)C | C19H24Cl2N2O2
reactant | triethylorthoformate | 5.0 ml | C(C)OC(OCC)OCC | C7H16O3
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | trans-(±)-3,4-difluoro-N-methyl-N-[6,6-diethoxy-2-(1-azetidinyl)cyclohexyl]benzeneacetamide | FC=1C=C(C=CC1F)CC(=O)N([C@H]1[C@@H](CCCC1(OCC)OCC)N1CCC1)C | C22H32F2N2O3
